US06730674B2
Step 2: 6-Methoxy-pyridazine-3-sulfonyl Fluoride
A mixture of 6-methoxy-pyridazine-3-thiol (7.1 g), methanol (100 mL), water (100 mL), and potassium hydrogen fluoride (39 g) was prepared and stirred at-10° C. for 30 minutes. Chlorine gas was bubbled into the mixture at a rate to ensure that the temperature did not exceed −10° C. The whitish-yellow reaction mixture was then poured into ice-cold water (50 mL) and the resulting white solid was filtered and air dried to afford the title compound (74%, 7.1 g); mp, 87-88° C.

reactant | 6-methoxy-pyridazine-3-thiol | 7.1 g | COC1=CC=C(N=N1)S | C5H6N2OS
reactant | methanol | 100 mL | CO | CH4O
reactant | potassium hydrogen fluoride | 39 g | F.[K]
reactant | at-10 | CC\1CCC(C/C1=C/C=C/2\CCCC3(C2CCC3C(C)/C=C/C(C)C(C)C)C)O | C28H46O
reactant | water | 100 mL | O | H2O
product | 6-Methoxy-pyridazine-3-sulfonyl Fluoride | 7.1 g, 74% | COC1=CC=C(N=N1)S(=O)(=O)F | C5H5FN2O3S
